US07323475B2
a) [(1-Oxo-3-phenyl-1H-indene-2-carbonyl)-amino]-acetic acid methyl ester
A mixture of 1-oxo-3-phenyl-1H-indene-2-carboxylic acid (2.13 g, 8.5 mmol; can be obtained according to M. R. Barvian et al. in Bioorg. Med. Chem. Lett. 1997, 7, 2903-2908) and SOCl2 (17 ml) was refluxed with stirring for 15 min. Excess SOCl2 was then evaporated in vacuo. The residue was dissolved in anhydrous CH2Cl2 (20 ml), and subsequently the solution was concentrated in vacuo again to remove last traces of SOCl2. The residue was dissolved in anhydrous CH2Cl2 (20 ml). The solution was cooled with an ice bath before glycine methyl ester hydrochloride (1.27 g, 10 mmol) and subsequently NEt3 (3.52 ml, 25 mmol, dropwise addition) were added with stirring. The ice bath was then removed and stirring was continued at ambient temperature for 45 min before the mixture was concentrated in vacuo. To the residue was added water (10 ml) and aqueous 2N HCl (15 ml) and the mixture was extracted with ethyl acetate (1×70 ml). The organic phase was dried over MgSO4 and evaporated in vacuo to give an orange solid (2.77 g). Purification by flash column chromatography on silca gel using hexanes:EtOAc=2:1 as the eluent gave the title compound as an orange solid (2.11 g); MS-(+)-ion: M+1=322.0.

reactant | 1-oxo-3-phenyl-1H-indene-2-carboxylic acid | 8.5 mmol, 2.13 g | O=C1C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C16H10O3
reactant | SOCl2 | 17 ml | O=S(Cl)Cl | Cl2OS
reactant | glycine methyl ester hydrochloride | 10 mmol, 1.27 g | Cl.COC(CN)=O
solvent | NEt3 | CCN(CC)CC | C6H15N
product | [(1-Oxo-3-phenyl-1H-indene-2-carbonyl)-amino]-acetic acid methyl ester | 2.77 g | COC(CNC(=O)C=1C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)=O | C19H15NO4
